US06093710
Under nitrogen atmosphere, potassium hydroxide (147 mg) in dimethyl sulfoxide (10 ml) was stirred at room temperature for 30 minutes. To the solution were added 2,3-dihydro-6-methoxycarbonyl-2-oxothieno[2,3-b][1,4]thiazine (0.50 g), sodium iodide (0.39 g) and 2-chloroethyl methyl sulfide (0.26 ml), and the mixture was stirred at 50° C. for 6.5 hours. The mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with water and brine, dried over anhydrous sodium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: hexane:ethyl acetate=3:1) to give 2,3-dihydro-6-methoxycarbonyl-1-(2-(methylthio)-ethyl]-2-oxothieno[2,3-b][1,4]thiazine (463 mg).

reactant | potassium hydroxide | 147 mg | [OH-].[K+]
reactant | 2,3-dihydro-6-methoxycarbonyl-2-oxothieno[2,3-b][1,4]thiazine | 0.50 g | COC(=O)C1=CC2=C(SCC(N2)=O)S1 | C8H7NO3S2
reactant | sodium iodide | 0.39 g | [I-].[Na+]
reactant | 2-chloroethyl methyl sulfide | 0.26 ml | CSCCCl | C3H7ClS
solvent | dimethyl sulfoxide | 10 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 2,3-dihydro-6-methoxycarbonyl-1-(2-(methylthio)-ethyl]-2-oxothieno[2,3-b][1,4]thiazine | 463 mg | COC(=O)C1=CC2=C(SCC(N2CCSC)=O)S1 | C11H13NO3S3
